US08003785B2
To a solution of 0.071 g (0.11 mmole) of 4-[4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-fluoro-5-methoxy-benzoyl-amino]-piperidin-1-carboxylic acid tert-butyl ester (I-177) and 3 mL of dichloromethane was added 6 mL of trifluoroacetic acid-dichloromethane (1:1). The mixture was stirred at room temperature for 18 hours, and then concentrated under reduced pressure. The residue was diluted with ethyl acetate and washed with saturated aqueous sodium bicarbonate solution, then brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with methanol-dichloromethane (gradient, 0:100-25:75) to give 0.050 g of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-fluoro-5-methoxy-N-piperidin-4-yl-benzamide (I-178).

reactant | 4-[4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-fluoro-5-methoxy-benzoyl-amino]-piperidin-1-carboxylic acid tert-butyl ester | 0.11 mmole, 0.071 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(C1=C(C=C(C(=C1)OC)NC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)C2CCCC2)N1)F)=O | C31H40F3N7O5
reactant | trifluoroacetic acid dichloromethane | 6 mL | FC(C(=O)O)(F)F.ClCCl
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-fluoro-5-methoxy-N-piperidin-4-yl-benzamide | 0.050 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=CC(=C(C(=O)NC1CCNCC1)C=C2OC)F | C26H32F3N7O3
